US07981903B2
A suspension of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (550 mg, 1.147 mmol) and 5-(methyloxy)-1-(1-methyl-D-prolyl)-2,3-dihydro-1H-indol-6-amine (363 mg, 1.320 mmol) in 2,2,2-trifluoroethanol (50 ml) was maintained at 80° C. for 2 hours. The solution was cooled, poured into saturated sodium bicarbonate/dichloromethane, and the organic layer was taken to a residue under reduced pressure. The residue was triturated with diethyl ether to afford 8-fluoro-5-{[5-(methyloxy)-1-(1-methyl-D-prolyl)-2,3-dihydro-1H-indol-6-yl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (425 mg, 0.623 mmol, 54.3%) as a pale yellow solid. To a solution of 8-fluoro-5-{[5-(methyloxy)-1-(1-methyl-D-prolyl)-2,3-dihydro-1H-indol-6-yl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (425 mg, 0.623 mmol) in tetrahydrofuran (50 ml) was added 2.0M MeNH2 in THF (3.12 ml, 6.23 mmol) and the resulting solution was stirred at room temperature for 6 hours. The reaction was diluted with ethyl acetate, washed with saturated sodium bicarbonate (aq) and the organic layer was dried over sodium sulfate, filtered, and taken to a residue under reduced pressure. The residue was dissolved in 1,4-dioxane (8 ml)/2.0 N NaOH (aq) (8 ml) and maintained at 120° C. under microwave heating for 12 minutes. The vial was cooled and its contents were dilulted with THF/EtOAc/saturated sodium chloride (aq). The organic layer was dried over sodium sulfate, filtered, stripped onto celite, and purified by column chromatography to afford 2-fluoro-N-methyl-6-[(2-{[5-(methyloxy)-1-(1-methyl-D-prolyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide (0.205 g, 0.367 mmol, 58.9%)as a grey solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.27 (s, 1H), 10.15 (s, 1H), 8.69 (s, 1H), 8.55 (s, 1H), 8.35 (d, J=8.43 Hz, 1H), 7.55 (s, 1H), 7.22-7.38 (m, 1H), 6.92-6.97 (m, 2H), 6.88 (t, J=9.30 Hz, 1H), 6.28 (dd, J=3.51, 1.91 Hz, 1H), 4.08-4.26 (m, 2H), 3.78 (s, 3H), 3.17-3.23 (m, 1H), 3.12 (t, J=7.62 Hz, 2H), 2.93-3.04 (m, 1H), 2.80 (d, J=4.21 Hz, 3H), 2.26 (s, 3H), 2.11-2.22 (m, 1H), 1.70-1.85 (m, 4H). ESIMS (M+H)+=559.

reactant | 8-fluoro-5-{[5-(methyloxy)-1-(1-methyl-D-prolyl)-2,3-dihydro-1H-indol-6-yl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.623 mmol, 425 mg | FC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3NC3=C(C=C2CCN(C2=C3)C([C@@H]3N(CCC3)C)=O)OC)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C35H32FN7O5S
reactant | MeNH2 | 2.0M | CN | CH5N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 6.23 mmol, 3.12 ml | C1CCOC1 | C4H8O
product | 2-fluoro-N-methyl-6-[(2-{[5-(methyloxy)-1-(1-methyl-D-prolyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 0.367 mmol, 0.205 g, 58.9% | FC1=C(C(=O)NC)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C([C@@H]1N(CCC1)C)=O)OC)=NC=C2 | C29H31FN8O3
